US06448281B1
(S)-2-{[1-(1-Cyclohexyl-2-furan-3-yl-1H-benzoimidazol-5yl)methanoyl]amino}-3-[4-(1H-tetrazol-5-yl)phenyl]propionic Acid Ethyl Ester
(S)-3-(4-Cyanophenyl)-2-{[1-(1-cyclohexyl-2-furan-3-yl-1H-benzoimidazol-5-yl)-methanoyl]-amino}-propionic acid ethyl ester from above (0.260 g, 0.51 mmol) and tributyltin azide (4 equiv., 2.0 mmol, 0.650 g) were dissolved in DMSO (2 mL) and the solution stirred at 80° C. for 48 h. The reaction was then quenched with 1 N HCl (10 mL) and stirred for an additional 40 min. The aqueous phase was decanted and the oily residue dissolved in DMSO and purified by reversed-phase HPLC using 0.1% TFA—0.1% TFA in acetonitrile gradients to give after lyophilisation, the TFA salt of the title compound as a white amorphous solid (97 mg).

reactant | (S)-3-(4-Cyanophenyl)-2-{[1-(1-cyclohexyl-2-furan-3-yl-1H-benzoimidazol-5-yl)-methanoyl]-amino}-propionic acid ethyl ester | C(C)OC([C@H](CC1=CC=C(C=C1)C#N)NC(=O)C1=CC2=C(N(C(=N2)C2=COC=C2)C2CCCCC2)C=C1)=O | C30H30N4O4
reactant | tributyltin azide | 2.0 mmol, 0.650 g, 4 equiv. | C(CCC)[Sn](CCCC)(CCCC)N=[N+]=[N-]
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | (S)-2-{[1-(1-Cyclohexyl-2-furan-3-yl-1H-benzoimidazol-5yl)methanoyl]amino}-3-[4-(1H-tetrazol-5-yl)phenyl]propionic Acid Ethyl Ester | C(C)OC([C@H](CC1=CC=C(C=C1)C1=NN=NN1)NC(=O)C1=CC2=C(N(C(=N2)C2=COC=C2)C2CCCCC2)C=C1)=O | C30H31N7O4
